US08106043B2
N-(4-(2-(Ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride:
To a solution of N-(4-(2-(ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide (131 mg, 0.378 mmol) in methanol (2 mL) was added hydrogen chloride (1M in diethyl ether; 1.134 mL, 1.134 mmol). The resulting mixture was concentrated in vacuo, giving an orange solid, (159 mg, 100%). 1H NMR (DMSO-d6) δ 11.43 (s, 1H), 9.72 (s, 1H), 9.22 (brs, 2H), 8.73 (s, 1H), 8.18-8.12 (m, 2H), 7.38-7.34 (m, 1H), 7.14-7.05 (m, 2H), 6.64-6.60 (m, 1H), 3.70-3.61 (m, 4H), 3.16-3.02 (m, 4H), 2.99-2.88 (m, 2H), 1.21 (t, J=7.2 Hz, 3H); HRMS (C17H23N4S2, MH+, free base): calculated: 347.1358, observed: 347.1346. HPLC purity: 97% by area.

reactant | N-(4-(2-(ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide | 0.378 mmol, 131 mg | C(C)NCCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | C17H22N4S2
reactant | hydrogen chloride | 1.134 mmol, 1M, 1.134 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | N-(4-(2-(Ethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride | Cl.Cl.C(C)NCCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | InChI=1S/C17H22N4S2.2ClH/c1-2-19-7-8-21-9-11-23-15-6-5-13(12-14(15)21)20-17(18)16-4-3-10-22-16;;/h3-6,10,12,19H,2,7-9,11H2,1H3,(H2,18,20);2*1H
